US06630600B1
3-(4-Hydroxyphenyl)-2-phenoxypropanoic acid methyl ester was reacted with 2-(4-methylsulfanylphenyl)ethanol using the same methods as in Example 38(c) to give 3-{4-[2-(4-methylsulfanylphenyl)ethoxy]phenyl}-2-phenoxy-propanoic acid methyl ester.

reactant | 3-(4-Hydroxyphenyl)-2-phenoxypropanoic acid methyl ester | COC(C(CC1=CC=C(C=C1)O)OC1=CC=CC=C1)=O | C16H16O4
reactant | 2-(4-methylsulfanylphenyl)ethanol | CSC1=CC=C(C=C1)CCO | C9H12OS
product | 3-{4-[2-(4-methylsulfanylphenyl)ethoxy]phenyl}-2-phenoxy-propanoic acid methyl ester | COC(C(CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)SC)OC1=CC=CC=C1)=O | C25H26O4S
